US07417169B2
4′-{2-[(R)-2-Hydroxy-3-(2-oxo-2,3-dihydro-1H-benzimidazol-4-yloxy)propylamino]ethoxy}-3′,5′-dimethylbiphenyl-4-carboxylic acid (Compound 98)
A mixture of ethyl 4′-(2-methanesulfonyloxyethoxy)-3′,5′-dimethylbiphenyl-4-carboxylate (0.10 g) and 4-((R)-3-amino-2-hydroxypropoxy)-1,3-dihydrobenzimidazol-2-one (0.057 g) in ethanol (2 mL) was stirred at 80° C. overnight. After being cooled to room temperature, a 2 mol/L aqueous solution of sodium hydroxide (0.5 mL) was added to the reaction mixture, and the mixture was stirred at 70° C. for 3 hrs. After being cooled to room temperature, to the mixture was added 2 mol/L hydrochloric acid (0.5 mL). The precipitated insoluble materials were collected by filtration, and purified by preparative reverse phase column chromatography (Shiseido Capcell Pak C18 ODS, 5 μm, 20×50 mm, linear gradient 0.1% aqueous formic acid/acetonitrile=90/10-60/40) to afford the title compound (0.027 g).

reactant | ethyl 4′-(2-methanesulfonyloxyethoxy)-3′,5′-dimethylbiphenyl-4-carboxylate | 0.10 g | CS(=O)(=O)OCCOC1=C(C=C(C=C1C)C1=CC=C(C=C1)C(=O)OCC)C | C20H24O6S
reactant | 4-((R)-3-amino-2-hydroxypropoxy)-1,3-dihydrobenzimidazol-2-one | 0.057 g | NC[C@H](COC1=CC=CC=2NC(NC21)=O)O | C10H13N3O3
reactant | sodium hydroxide | 0.5 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2 mol/L, 0.5 mL | Cl | ClH
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 4′-{2-[(R)-2-Hydroxy-3-(2-oxo-2,3-dihydro-1H-benzimidazol-4-yloxy)propylamino]ethoxy}-3′,5′-dimethylbiphenyl-4-carboxylic acid | 0.027 g | O[C@H](CNCCOC1=C(C=C(C=C1C)C1=CC=C(C=C1)C(=O)O)C)COC1=CC=CC=2NC(NC21)=O | C27H29N3O6
